US04636513
(9) N-(5-Propyl-4-isoxazolylcarbonyl)-piperidine
of boiling point (4 mbar) 84° to 92° C., prepared from 5-propyl-4-isoxazolecarboxylic acid chloride and piperidine.

reactant | 5-propyl-4-isoxazolecarboxylic acid chloride | C(CC)C1=C(C=NO1)C(=O)Cl | C7H8ClNO2
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-(5-Propyl-4-isoxazolylcarbonyl)-piperidine | C(CC)C1=C(C=NO1)C(=O)N1CCCCC1 | C12H18N2O2
